US08030337B2
3-(2-Aminoethylidene)-4-methoxyindan-5-amine
To a solution of (6-amino-7-methoxy-2,3-dihydro-1H-inden-1-ylidene)acetonitrile (15.2 mg, 0.076 mmol) in ethanol (0.5 mL) were added Raney cobalt (150 mg) and 2N ammonia/ethanol solution (0.5 mL), and the mixture was stirred at room temperature for 2 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure to give the title compound (15.3 mg, yield 99%).

reactant | (6-amino-7-methoxy-2,3-dihydro-1H-inden-1-ylidene)acetonitrile | 0.076 mmol, 15.2 mg | NC1=CC=C2CCC(C2=C1OC)=CC#N | C12H12N2O
reactant | ammonia ethanol | 2N, 0.5 mL | N.C(C)O
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
catalyst | cobalt | 150 mg | [Co] | Co
product | 3-(2-Aminoethylidene)-4-methoxyindan-5-amine | 15.3 mg, yield 99% | NCC=C1CCC2=CC=C(C(=C12)OC)N | C12H16N2O
